US05703096
9(a) 5-{4-[2-(4-Phenylbenzylideneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 483 mg of 2-(4-phenylbenzylideneaminooxy)ethanol (prepared as described in Preparation 9), 716 mg of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 525 mg of triphenylphosphine and 348 mg of diethyl azodicarboxylate, 914 mg of the title compound were obtained as a crystalline powder, melting at 157°-159° C.

reactant | 2-(4-phenylbenzylideneaminooxy)ethanol | 483 mg | C1(=CC=CC=C1)C1=CC=C(C=NOCCO)C=C1 | C15H15NO2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 716 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(4-Phenylbenzylideneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 914 mg | C1(=CC=CC=C1)C1=CC=C(C=NOCCOC2=CC=C(CC3C(N(C(S3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C2)C=C1 | C44H36N2O4S
